Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4][O:5][C:6]#[C:7][H:8]>>[H:1][C:2].[O:3]=[C:4][O:5][C:6]#[C:7][H:8],3.16621468282
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.96841037937
[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.08476505262
[C:1]#[C:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9][H:10].[H:4]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],-2.599664748
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.3836985869800005
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-7.690707163150001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],7.405183146880001
[O:1]=[C:2]=[C:3][C:5]([O:4])([H:6])[H:7]>>[O:1]=[C:2]=[C:3]1[O:4][C:5]1([H:6])[H:7],-1.54019354461
[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-8.30905965
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.2741232647399998
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7][H:8],5.40959364698
[C:1]#[C:2][H:5].[C:3](#[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.018544750019999
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])([H:8])[O:9][H:10],4.9131457212
[H:5].[O:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-1.77374835988
[H:1][C:2]=[C:3]([H:4])[C:5][C:8]([H:9])([H:10])[O:11][H:12].[O:6][H:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.34221097468
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[C:6][H:7].[O:1]=[C:2]=[C:3][O:4][C:5],7.413511067589999
[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1],6.48387852517
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],4.30553310096
[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-3.91154210162
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],6.09563215502
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13].[H:7],4.97412051536
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.42174553191
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5],1.74338666655
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],3.22776964501
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.74088747971
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[C:4]([H:5])#[C:6][C:7][O:8][H:9].[H:1][C:2]=[O:3],0.14179940946
[H:1][C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-5.173638067830001
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-4.9466704062
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],1.88608521064
